US04255442
Stir a mixture of 6.0 g of 6-bromo-5-chloro-2-[(methyl-sulfinyl)acetyl]-3-phenylindole and 6.0 g of m-chloroperbenzoic acid in 150 ml of chloroform at room temperature for 2 hours. Concentrate the mixture to about 50 ml, in vacuo, and filter and wash the product with 20 ml of cold chloroform to obtain 6-bromo-5-chloro-2[(methylsulfonyl)acetyl]-3-phenylindole, m.p. 224°-225°.

reactant | 6-bromo-5-chloro-2-[(methyl-sulfinyl)acetyl]-3-phenylindole | 6.0 g | BrC1=C(C=C2C(=C(NC2=C1)C(CS(=O)C)=O)C1=CC=CC=C1)Cl | C17H13BrClNO2S
reactant | m-chloroperbenzoic acid | 6.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-bromo-5-chloro-2[(methylsulfonyl)acetyl]-3-phenylindole | BrC1=C(C=C2C(=C(NC2=C1)C(CS(=O)(=O)C)=O)C1=CC=CC=C1)Cl | C17H13BrClNO3S
